US07253171B2
2-Amino-N-cyclohexyl-N-methylbenzenesulfonamide
To a stirred solution of cyclohexylmethylamine (0.57 g, 5 mmol) in pyridine (8 ml) was added slowly at 0° C. 2-nitrobenzenesulfonyl chloride (1.10 g, 5 mmol) and the reaction mixture was allowed to warm to room temperature and stirred overnight. The pyridine was removed under reduced pressure and the crude mixture obtained was diluted with ethyl acetate and washed with hydrochloric acid solution (25 ml), water (25 ml), brine (25 ml) and dried over sodium sulphate. The solvent was removed under reduced pressure and the resulting crude oil (1.40 g) was dissolved in ethanol and hydrogenated in the presence of a catalytic amount of Raney-Ni®. The catalyst was removed by filtration through Celite® and the solvent was eliminated under reduced pressure to yield a yellow solid (0.80 g, 60%).

reactant | cyclohexylmethylamine | 5 mmol, 0.57 g | C1(CCCCC1)CN | C7H15N
reactant | 2-nitrobenzenesulfonyl chloride | 5 mmol, 1.10 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-N-cyclohexyl-N-methylbenzenesulfonamide | 0.80 g, 60% | NC1=C(C=CC=C1)S(=O)(=O)N(C)C1CCCCC1 | C13H20N2O2S
